US07560593B2
Into a 100-ml, 4-necked flask equipped with a stirrer were introduced 1.5 g of O-methyl-N-nitroisourea, 11 g of water, 3 g of sodium chloride and 2 g of methylamine hydrochloride, and the resulting material was maintained at 20 degree centigrade. Thereafter, 0.1 g of sodium hydrogen carbonate was added to the mixture and the mixture was stirred at 20 degree centigrade for 16 hours. Then, while stirring the reaction mixture, 0.1 g of concentrated hydrochloric acid and 200 ml of water were added to the mixture to give a homogenious aqueous solution of N,O-dimethyl-N′-nitroisourea, which was analyzed by HPLC. In the aqueous solution, 1.2 g of N,O-dimethyl-N′-nitroisourea was contained, and the reaction yield was 73%.

reactant | O-methyl-N-nitroisourea | 1.5 g | COC(N[N+](=O)[O-])=N | C2H5N3O3
reactant | sodium chloride | 3 g | [Cl-].[Na+]
reactant | methylamine hydrochloride | 2 g | Cl.CN
reactant | sodium hydrogen carbonate | 0.1 g | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 0.1 g | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | water | 11 g | O | H2O
product | N,O-dimethyl-N′-nitroisourea | yield was 73% | CNC(OC)=N[N+](=O)[O-] | C3H7N3O3
